US08252825B2
Step B: 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid
To a dichloromethane (4.5 L) solution of 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid (235 g, 0.54 mol) was added triethylamine (85 mL, 0.59 mol), followed by a dichloromethane (800 mL) solution of trityl chloride (159 g, 0.56 mol), and the reaction mixture was stirred at room temperature overnight. The reaction mixture was washed with water, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Chromatography over silica eluting with 20-80% acetone/heptane afforded the title compound as an orange solid.

reactant | 2-butyl-4-chloro-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid | 0.54 mol, 235 g | C(CCC)C=1N(C(=C(N1)Cl)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H21ClN6O2
reactant | triethylamine | 0.59 mol, 85 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 0.56 mol, 159 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dichloromethane | 800 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4.5 L | ClCCl | CH2Cl2
product | 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid | C(CCC)C=1N(C(=C(N1)Cl)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H35ClN6O2
